US06071903
Methyl 4-(4-Hydroxybenzenesulfonyl)-1-(2-thienylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate
To a solution of 4.0 g (8.22 mmol) of methyl 4-(4-methoxybenzenesulfonyl)-1-(2-thienylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate in 17 ml of CH2Cl2 chilled to 0° C., was added slowly 16.4 ml (16.44 mmol) of 1.0 molar solution of boron tribromide in CH2Cl2. The mixture was stirred at room temperature overnight and diluted with CH2Cl2. The mixture was filtered and the solid washed with CH2Cl2. and H2O. The filtrate was diluted with H2O and the organic layer separated. The solvent was removed under vacuum and the solid chromatographed on silica gel with hexane-ethyl acetate (1:1) as solvent to give 0.80 g of off white foam; Mass Spectrum (ES) 473.5 (M+H); Anal. Calc'd for C22H20N2O6S2 : C, 55.9; H, 4.3; N, 5.9. Found: C, 54.5; H, 4.4; N, 5.5.

reactant | methyl 4-(4-methoxybenzenesulfonyl)-1-(2-thienylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 8.22 mmol, 4.0 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(=O)C=2SC=CC2)C(=O)OC | C23H22N2O6S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 17 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-Hydroxybenzenesulfonyl)-1-(2-thienylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | OC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(=O)C=2SC=CC2)C(=O)OC | C22H20N2O6S2
